US04377695
8-[3-(4-Chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid
The product is produced as described in example 22 from 4 g. 8-[3-(4-chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester and 0.8 g. of NaOH.

reactant | 8-[3-(4-chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid methyl ester | COC(CCCCCCCN1C(N(C2=C1C=CC=C2)CC2=CC=C(C=C2)Cl)=O)=O | C23H27ClN2O3
reactant | NaOH | [OH-].[Na+]
product | 8-[3-(4-Chlorobenzyl)-2-oxo-benzimidazolin-1-yl]-caprylic acid | ClC1=CC=C(CN2C(N(C3=C2C=CC=C3)CCCCCCCC(=O)O)=O)C=C1 | C22H25ClN2O3
